US08466180B2
To a solution of N-(5-amino-2-cyano-phenyl)-4-fluoro-benzamide (0.20 g, 0.78 mmol) (Example I9) in anhydrous tetrahydrofuran (2.5 ml) under an atmosphere of nitrogen was added at room temperature a solution of 2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-benzoyl chloride (0.332 g, 1.04 mmol) (Example I4) in anhydrous tetrahydrofuran (2.5 ml). The reaction mixture was stirred at room temperature for 48 hours. The reaction mixture was diluted with ethyl acetate and aqueous sodium hydrogen carbonate (saturated). The phases were separated and the aqueous phase was extracted twice with ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (eluent: cyclohexane/ethyl acetate 3:1) to give N-[4-cyano-3-(4-fluoro-benzoylamino)-phenyl]-2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-benzamide (131 mg, 66% yield). 1H-NMR (CDCl3, 400 MHz): 8.98 (s, 1H), 8.51 (d, 1H), 8.45 (s, 1H), 8.33 (s, 1H), 8.21 (dd, 1H), 7.84 (m, 2H), 7.68 (d, 1H), 7.34 (s, 1H), 6.78 (t, 2H) ppm.

reactant | N-(5-amino-2-cyano-phenyl)-4-fluoro-benzamide | 0.78 mmol, 0.20 g | NC=1C=CC(=C(C1)NC(C1=CC=C(C=C1)F)=O)C#N | C14H10FN3O
reactant | 2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-benzoyl chloride | 1.04 mmol, 0.332 g | CC1=C(C(=O)Cl)C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C | C12H8ClF7O
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-[4-cyano-3-(4-fluoro-benzoylamino)-phenyl]-2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-benzamide | 131 mg, 66% yield | C(#N)C1=C(C=C(C=C1)NC(C1=C(C=C(C=C1C)C(C(F)(F)F)(C(F)(F)F)F)C)=O)NC(C1=CC=C(C=C1)F)=O | C26H17F8N3O2
